US03931108
62.6 G of chloroformic acid phenyl ester are added dropwise over the course of 30 minutes to a two-phase solution of 40 g of bis-(4-hydroxyphenyl)-methane(bisphenol-F), 600 g of methylene chloride, 300 g of water, 41.4 g of 45% strength sodium hydroxide solution and 0.240 g of triethylamine at 25°C. After stirring for 1 hour, 3.1 g of unreacted bisphenol-F are again isolated from the aqueous phase and the organic phase is washed with dilute sodium hydroxide solution, then with dilute hydrochloric acid and finally with water. After drying the solution and distilling off the methylene chloride, recrystallization of the residue from 300 ml of cyclohexane yields 73.8 g (84% of theory) of bisphenol-F-bisphenyl-carbonate of melting point 97.5 to 98°C.

reactant | chloroformic acid phenyl ester | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | methylene chloride | 600 g | C(Cl)Cl | CH2Cl2
reactant | water | 300 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | triethylamine | 0.240 g | C(C)N(CC)CC | C6H15N
product | bisphenol-F | 3.1 g | C1=CC=C(C(=C1)CC2=CC=CC=C2O)O | C13H12O2
